US04927970
1-Butoxy-2-(3-hydroxypropvlamino)-1-cyclobutene-3,4-dione
A slurry of 1,2-dihydroxy-1-cyclobutene-3,4-dione (15.0 g, 131.5 mmol), 45 mL of 1-butanol and 30 mL of toluene was heated at reflux under a nitrogen atmosphere with stirring under a Dean-Stark Water separator until water stopped passing over. The reaction mixture was then cooled to 0° C. and a solution of 3-amino-1-propanol (9.88 g, 131.5 mmol) in 10 mL of 1-butanol was added dropwise. After 1 hour at ambient temperature, charcoal was added and the mixture filtered through a pad of diatomaceous earth. The filtrate was evaporated under reduced pressure to give 28.9 g of the title compound as an oil. A portion of the product (24.7 g) was dissolved in dichloromethane and filtered through a pad of about 200 g of silica gel. The pad was washed with 1.6 L of dichloromethane:methanol (9:1), and the filtrate was evaporated in vacuo to produce 22.7 g of the title compound.

reactant | 1,2-dihydroxy-1-cyclobutene-3,4-dione | 131.5 mmol, 15.0 g | OC1=C(C(C1=O)=O)O | C4H2O4
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
reactant | 3-amino-1-propanol | 131.5 mmol, 9.88 g | NCCCO | C3H9NO
reactant | charcoal | C | CH4
solvent | 1-butanol | 10 mL | C(CCC)O | C4H10O
solvent | 1-butanol | 45 mL | C(CCC)O | C4H10O
solvent | water | O | H2O
product | 1-Butoxy-2-(3-hydroxypropvlamino)-1-cyclobutene-3,4-dione | 28.9 g | C(CCC)OC1=C(C(C1=O)=O)NCCCO | C11H17NO4
